US05444050
2-Bromophenol (10.0 g, 57.8 mmol) was dissolved in dry THF (100 ml) in a dry 250 ml flask flushed with nitrogen. The mixture was chilled in a dry ice/2-propanol bath, n-butyl lithium (51 ml of a 2.5M solution in hexanes, 127.2 mmol) was added, then the cooling bath was exchanged for an ice-water bath. The reaction was stirred for an hour at 0° C. then trimethyl borate (6.9 ml , 60.7 mmol) was added to the slurry which became homogeneous after a few minutes. The mixture was stirred at room temperature overnight, then treated with 2N aqueous HCl to pH 3, mixed well for 30 minutes and extracted with ether (3×25 ml). The organic materials were combined, dried (MgSO4), then concentrated under reduced pressure which gave 7.6 g (91%) of 2-hydroxybenzene boronic acid as a white solid, m.p. 156°-158° C.

reactant | 2-Bromophenol | 57.8 mmol, 10.0 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | trimethyl borate | 60.7 mmol, 6.9 ml | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-hydroxybenzene boronic acid | 7.6 g, 91% | OC1=C(C=CC=C1)B(O)O | C6H7BO3
